US05130119
(a) 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid chloride
8.78 g (30 mmol) of 4-fluoro-2-(trifluoromethyl)-aniline is dissolved in 88 ml of dichloroethane with exclusion of moisture, 5.55 g (70 mmol) of pyridine is added and the solution is cooled to 0° C. With this temperature being maintained, a solution of 9.9 g (36 mmol) of 1,3-benzenedisulfonic acid dichloride in 50 ml of dichloroethane is instilled, it is stirred for 30 more minutes at 0° C. and for 5 hours more at room temperature. The suspension is shaken out three times with 2N hydrochloric acid and twice with water, the organic phase is dried on sodium sulfate, filtered, concentrated by evaporation and the residue is chromatographed on silica gel 60 (Merck) with ethyl acetate/hexane 1:1. The fractions of the corresponding polarity, concentrated by evaporation, yield 9.7 g (23.22 mmol)=77.4% of the theoretical yield is obtained of a partially crystalline product.

reactant | 4-fluoro-2-(trifluoromethyl)-aniline | 30 mmol, 8.78 g | FC1=CC(=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | pyridine | 70 mmol, 5.55 g | N1=CC=CC=C1 | C5H5N
reactant | 1,3-benzenedisulfonic acid dichloride | 36 mmol, 9.9 g | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloroethane | 88 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid chloride | FC1=CC(=C(C=C1)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl)C(F)(F)F | C13H8ClF4NO4S2
